US04059447
1,3-dioxo-1(2-tetradecyloxyphenyl)-butane was prepared by reacting 2-tetradecyloxybenzoic acid methyl ester and acetone in the presence of sodium ions as described by Bloch and v.Konstanecki in Ber. 33, 1998.

reactant | 2-tetradecyloxybenzoic acid methyl ester | COC(C1=C(C=CC=C1)OCCCCCCCCCCCCCC)=O | C22H36O3
reactant | sodium | [Na] | Na
solvent | acetone | CC(=O)C | C3H6O
product | 1,3-dioxo-1(2-tetradecyloxyphenyl)-butane | O=C(CC(C)=O)C1=C(C=CC=C1)OCCCCCCCCCCCCCC | C24H38O3
